US04711890
N-methyl-N-(1-methylpropyl)-3-phenylnaphthalene-1-carboxamide
The procedure of Example 20 is followed using 3-phenylnaphthalene-1-carboxylic acid (4.3 g), thionyl chloride (20 ml) and N-methylbut-2-ylamine (1.5 g) in pyridine (20 ml) as the starting materials. After recrystallisation from petroleum ether, N-methyl-N-(1-methylpropyl)-3-phenylnaphthalene-1-carboxamide (2.8 g), melting at 125° C., is obtained.

reactant | 3-phenylnaphthalene-1-carboxylic acid | 4.3 g | C1(=CC=CC=C1)C=1C=C(C2=CC=CC=C2C1)C(=O)O | C17H12O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylbut-2-ylamine | 1.5 g | CNC(C)CC | C5H13N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl-N-(1-methylpropyl)-3-phenylnaphthalene-1-carboxamide | CN(C(=O)C1=CC(=CC2=CC=CC=C12)C1=CC=CC=C1)C(CC)C | C22H23NO
